US08258130B2
2-Phenyl-pyrimidine-5-carboxylic acid (4-methyl-piperazin-1-yl)-amide is dissolved in HCl methanol solution and evaporated methanol to dryness to afford 2-phenyl-pyrimidine-5-carboxylic acid (4-methyl-piperazin-1-yl)-amide dihydrochloride as a solid. MS: 298 (M+H).

reactant | 2-Phenyl-pyrimidine-5-carboxylic acid (4-methyl-piperazin-1-yl)-amide | CN1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C16H19N5O
reactant | HCl methanol | CO.Cl
product | 2-phenyl-pyrimidine-5-carboxylic acid (4-methyl-piperazin-1-yl)-amide dihydrochloride | Cl.Cl.CN1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | InChI=1S/C16H19N5O.2ClH/c1-20-7-9-21(10-8-20)19-16(22)14-11-17-15(18-12-14)13-5-3-2-4-6-13;;/h2-6,11-12H,7-10H2,1H3,(H,19,22);2*1H
